US04025652
To a solution of 50 g. of 2,6-dimethylpiperidine in 300 ml. of benzene is added 60 g. of phosgene and the mixture is refluxed for 3 hours. The solid which had separated was filtered and the filtrate was concentrated and distilled under vacuum to obtain 2,6-dimethylpiperidinoyl chloride.

reactant | 2,6-dimethylpiperidine | CC1NC(CCC1)C | C7H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,6-dimethylpiperidinoyl chloride | CC1N(C(CCC1)C)C(=O)Cl | C8H14ClNO
